* Z:\home\bean\RadioNotes\28mhz_class_e_for_new_board.asc
L1 N001 N006 10µ
C1 N006 0 220p
C2 N007 N006 110p
M1 N006 N015 0 0 RD16HHF1
L6 N011 N010 390n
L7 N012 N011 390n
C8 N010 0 120p
C9 N011 0 220p
C10 N012 0 120p
R5 N012 0 50
V1 N001 0 13.3
Vgen1 N017 0 PULSE(0 3.3 0 1n 1n {0.5/freq} {1/freq}) Rser=0
R17 N016 N017 330
Q4 N002 N004 N014 0 LG
Q5 N014 N016 N018 0 LG
R18 N001 N002 330 pwr=0.5
R20 N016 0 1k
C14 N004 0 0.022µ
R4 N018 0 33
Q1 P001 N002 N003 0 LG
R7 N003 0 165 pwr=0.5
R3 N004 0 3.4k
R8 N001 N004 10k
Q2 N020 N019 N015 0 L6
Q3 N005 N013 N015 0 LG
R1 N001 N005 70
R9 N020 0 70
R10 N001 N013 4.7k
R11 N019 0 4.7k
R12 N013 N003 100
R13 N003 N019 100
R14 P001 N001 40
L2 N008 N007 330n
C6 N009 0 220p
L5 N009 N008 180n
L8 N010 N009 430n
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.mos
.model MySwitch SW(Ron= .0003250389 Roff=10000 Vt=3.5 Vh=0)
.tran 0 10m 0u 100p startup
* ClassE - www.TonneSoftware.com
.model RD16HHF1 VDMOS(Rg=987m Rd=0m Rs=111m Vto=3.19 Kp=0.495 Lambda=0 mtriode=0.804 subthres=2.37e-02 Cgdmax=11.6p Cgdmin=1.64p Cgs=44.9p Cjo=73.1p M=0.297 Vj=0.839)
* actual Class E amplifier
.param freq 28.074Meg
* .step param freq 28Meg 28.5Meg 0.05Meg
* impedance matching network
* low pass filter
.model MRF101AN VDMOS(Rg=4 Rd=1 Rs=0.1 Vto=2.2 Kp=7.1 Lambda=0 mtriode=0.692 subthres=1.07m Cgdmax=5p Cgdmin=1p Cgs=130p Cjo=130p M=0.4 Vj=2.3 BV=140 tt=1n)
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.model 2N7000 VDMOS(Rg=3 Vto=1.6 Rd=0 Rs=.75 Rb=.14 Kp=.17 mtriode=1.25 Cgdmax=80p Cgdmin=12p Cgs=50p Cjo=50p Is=.04p mfg=Fairchild Vds=60 Ron=2 Qg=1.5n)
.MODEL BS250P VDMOS pchan Rg=160 VTO=-3.193 RS=2.041 RD=0.697 IS=2E-13 KP=0.277 Cjo=105p LAMBDA=1.2E-2 RB=0.309 Rds=1.2E8 Cgdmax=57p Cgdmin=5p CGS=47p TT=86.56n BV=45 IBV=10u
.MODEL LG AKO: 2N3904 (Bf=60)
.temp 37
* 1W
* 0.5W
* high swing at 30MHz ->
* <- IRL: 50 ohms
* <- IRL: 50 ohms
* IRL: no 40ohm resistor here |\n                                                 v\n                                                 v\n                                                 v
.model L6 AKO: 2N3906 (Bf=60)
.backanno
.end
